US07951957B2
5-amino-2-(1H-benzimidazol-2-yl)pyrazole
A mixture of ethyl formate (5 ml, 62 mmol), acetonitrile (1 g, 25 mmol) and ethanol (0.5 ml) is added dropwise to a suspension of sodium hydride (0.96 g, 40 mmol) in ether at room temperature. After stirring for 16 hours the volatiles are removed under reduced pressure. The residue is diluted with water and the pH is adjusted by addition of AcOH to 7. After addition of 2-hydrazino1-H-benzimidazole (6.6 g, 45 mmol) the mixture is allowed to stand for 5 hours. The pH is adjusted with sodium hydroxide, and the mixture extracted with chloroform. The crude title product is used without further purification. 1H-NMR (400 MHz, d6-DMSO): 12.7 (s, 1H); 7.57 (s, 1H); 7.49 (m, 2H); 7.40 (m, 2H); 7.19 (s, 2H); 6.9 (s, 2H); 5.44 (d, 1H).

reactant | ethyl formate | 62 mmol, 5 ml | C(=O)OCC | C3H6O2
reactant | acetonitrile | 25 mmol, 1 g | C(C)#N | C2H3N
reactant | sodium hydride | 40 mmol, 0.96 g | [H-].[Na+]
reactant | 2-hydrazino1-H-benzimidazole | 45 mmol, 6.6 g | N(N)C1=NC2=C(N1)C=CC=C2 | C7H8N4
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 5-amino-2-(1H-benzimidazol-2-yl)pyrazole | NC=1C=CN(N1)C1=NC2=C(N1)C=CC=C2 | C10H9N5
